US04010160
adding naphthalene-1,5-disulphonic acid to said 1,3-bis-(β-ethylhexyl)-5-nitro-5-methyl-hexahydropyrimidine in said solution, whereby a reaction mixture is formed and 1,3-bis-(β-ethylhexyl)-5-nitro-5-methyl-hexahydropyrimidine-naphthalene-1,5-disulphonate is produced as a reaction product;

reactant | naphthalene-1,5-disulphonic acid | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
reactant | 1,3-bis-(β-ethylhexyl)-5-nitro-5-methyl-hexahydropyrimidine | C(C)C(CN1CN(CC(C1)(C)[N+](=O)[O-])CC(CCCC)CC)CCCC | C21H43N3O2
product | 1,3-bis-(β-ethylhexyl)-5-nitro-5-methyl-hexahydropyrimidine naphthalene-1,5-disulphonate | C(C)C(CN1CN(CC(C1)(C)[N+](=O)[O-])CC(CCCC)CC)CCCC.C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C21H43N3O2.C10H8O6S2/c1-6-10-12-19(8-3)14-22-16-21(5,24(25)26)17-23(18-22)15-20(9-4)13-11-7-2;11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16/h19-20H,6-18H2,1-5H3;1-6H,(H,11,12,13)(H,14,15,16)/p-2
